US06642229B2
To a solution of 3′-(7-hydroxymethylimidazo[1,2-a]pyrimidin-3-yl)-biphenyl-2-carbonitrile (0.1 g, 0.31 mmol) in dichloromethane (5 ml) was added carbon tetrabromide (153 mg, 0.46 mmol) and triphenylphosphine (121 mg, 0.46 mmol). This mixture was stirred at ambient temperature for 6 h after which time 1,2,4-triazole sodium salt (84 mg, 0.93 mmol) was added and the reaction stirred at ambient temperature for a further 18 h. The solvent was removed in vacuo and the residue purified by silica gel chromatography eluting with dichloromethane on a gradient of methanol (0-10%). Further purification by high performance liquid chromatography gave 3′-[7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-a]pyrimidin-3-yl]biphenyl-2-carbonitrile (15.3 mg): δH (400 MHz, DMSO) 5.76 (2H, s), 7.32 (1H, d, J 7), 7.52-7.84 (8H, m), 8.16 (2H, d, J 5), 8.73 (1H, s), 9.22 (1H, s); m/z (ES+) 378 (M++H).

reactant | 3′-(7-hydroxymethylimidazo[1,2-a]pyrimidin-3-yl)-biphenyl-2-carbonitrile | 0.31 mmol, 0.1 g | OCC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C20H14N4O
reactant | carbon tetrabromide | 0.46 mmol, 153 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.46 mmol, 121 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,2,4-triazole sodium salt | 0.93 mmol, 84 mg | [Na].N1N=CN=C1
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3′-[7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-a]pyrimidin-3-yl]biphenyl-2-carbonitrile | 15.3 mg | N1(N=CN=C1)CC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C22H15N7
